US07705157B2
sec-BuLi (4.3 mL, 6.0 mmol, 1.4M solution in cyclohexane) was added dropwise to a solution of 9-bromoanthracene (1.29 g, 5.0 mmol) in Et2O (20 mL) at 0° C. under N2. The reaction was held at 0° C. for 15 minutes then warmed to rt and stirred an additional 45 minutes. Triisopropylborate (1.5 mL, 6.5 mmol) was added and the reaction was stirred at rt for 18 h. Concentrated HCl (1.0 mL) and MeOH (1.0 mL) was added and the reaction was stirred for 30 minutes. The layers were separated and the aqueous phase was extracted three times with CH2Cl2. The combined organic layers were washed with H2O, sat. NaHCO3 (aq.), brine, and then dried over Na2SO4. Filtration and concentration gave 1.05 g of 9-anthraceneboronic acid.

reactant | sec-BuLi | 6.0 mmol, 1.4M, 4.3 mL | [Li]C(C)CC
reactant | 9-bromoanthracene | 5.0 mmol, 1.29 g | BrC=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9Br
reactant | Triisopropylborate | 6.5 mmol, 1.5 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1.0 mL | Cl | ClH
solvent | Et2O | 20 mL | CCOCC | C4H10O
solvent | MeOH | 1.0 mL | CO | CH4O
product | 9-anthraceneboronic acid | 1.05 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)B(O)O | C14H11BO2
